* bb-amp b8 - CMRR, and the REF-drive structure that sets it
* Sweeps Vcm 1.55 .. 1.75 V at Vdiff = 0, VS = 3.30 V, and measures how far
* the output moves. Two mechanisms are in this model and both are real:
*   1. the AD8226's own guaranteed CMRR floor, injected as 5.012e-6 V/V
*      (Table 3, 106 dB min at G=10 - the conservative row, since no G=39.9
*      row exists);
*   2. the REF source impedance. The difference amplifier is built from its
*      published four-50k network with REF at the end of one of them, so any
*      impedance in series with REF reproduces the datasheet's own
*      2*(50k+Rref)/(100k+Rref) uneven amplification EXACTLY. That is the
*      mechanism blocks.md Ruling 1 turns on: drive REF from the bare
*      R2/R3 divider (9.24 k Thevenin) instead of U2A and this bench moves
*      by ~2 mV over the same sweep - verified by mutation, see the report.
* NOT modelled: CMRR roll-off with frequency, resistor-network mismatch, and
* CMRR drift over temperature. Macromodel CMRR fidelity is poor in general -
* a pass here is necessary, not sufficient (blocks.md B8's own words).
*
* ====================== MODELS - agent-authored, GENERIC ======================
* No vendor model file is used anywhere (ai-ee model policy). Every number
* below is a datasheet value taken from the P3 extractions:
*   boards/bb-amp/parts/C34250.json - AD8226ARZ, ADI Rev. C, Table 3 (SINGLE
*                                     supply), Table 8, printed p.19-21
*   boards/bb-amp/parts/C38732.json - OPA2333AIDR, TI SBOS351D, p.3 / p.9
*
* gopamp = generic single-pole op-amp macromodel:
*   1 Tohm differential input -> slew-limited transconductance -> R||C
*   dominant pole (DC gain = aol, unity-gain frequency = gbw) -> anti-windup
*   limiter -> open-loop output resistance ro -> stiff output swing clamp at
*   [vn+vsatlo, vp-vsathi]. Biq draws iq from vp plus what the output SOURCES.
* WHY THE SWING CLAMP SITS AFTER ro AND IS A DIODE PAIR: a datasheet output
*   swing figure is already a LOADED number (OPA2333: 30 mV from the rail at
*   RL = 10 k), so clamping ahead of ro and then dropping ro*Iload on top of
*   it double-counts the loading - measured on the first cut of this model,
*   it put the +25 mV clip at 3.152 V instead of ~3.27 V. The limiter ahead
*   of ro is therefore set 0.4 V BEYOND the rails (it exists only to stop
*   integrator windup) and the real limit is a stiff diode clamp on the
*   output node, which leaves ro free to do its actual job: set the AC output
*   impedance and the capacitive-load stability.
* CAPTURES: dc gain, gain-bandwidth, slew rate, output swing limits, output
*   impedance and capacitive-load stability, quiescent + load supply current.
* DOES NOT CAPTURE: input offset voltage and its drift, 1/f noise, the
*   OPA2333 auto-zero chopper, input bias/offset current, PSRR, any
*   temperature coefficient, and - see b2 - the AD8226's real internal-node
*   saturation physics (its Table 8 boundary is HAND-ENTERED as the preamp
*   output clamp, so b2 tests the DESIGN against the datasheet inequality,
*   not the part).
*
.model dclamp D(is=1e-12 n=0.02 rs=0.01 cjo=0)
.subckt gopamp inp inn out vp vn
+ params: gbw=1meg aol=1e6 ro=100 vsathi=0.05 vsatlo=0.05 iq=0 islew=1e6
Rin  inp inn 1T
Bgm  0 nint I = min(max({6.283185307*gbw*1e-6}*(V(inp)-V(inn)), -{islew}), {islew})
Rp   nint 0 {aol/(6.283185307*gbw*1e-6)}
Cp   nint 0 1u
Bhi  nhi 0 V = V(vp)-{vsathi}
Blo  nlo 0 V = V(vn)+{vsatlo}
Bo   nbuf 0 V = min(max(V(nint), V(nlo)-0.4), max(V(nhi)+0.4, V(nlo)-0.4+1e-6))
Rout nbuf nsen {ro}
Vsen nsen out 0
Dhi  out nhi dclamp
Dlo  nlo out dclamp
Biq  vp vn I = {iq} + max(i(Vsen), 0)
.ends
*
* AD8226 - classic 3-op-amp in-amp built from its OWN published structure so
* that RG, the internal 50k difference-amp network and the REF pin behave the
* way the datasheet describes. pins: +IN -IN RG RG REF OUT +VS -VS
*   preamp gbw 1.83 MHz: Table 3 tabulates bandwidth only at G = 1/10/100/1000
*     (1500/160/20/2 kHz). No G=39.9 row exists; log-log interpolation between
*     the G=10 and G=100 rows gives 45.8 kHz at G1 = 39.9, so preamp
*     GBW = 45.8 kHz * 39.9 = 1.83 MHz. INTERPOLATED, not a cited figure.
*   preamp clamp [-0.35, +VS-0.70] V: Table 8 at TA = +25 degC
*     (V_MINUS_LIMIT -0.35 V, V_PLUS_LIMIT +0.70 V) - the Equation 1/2
*     internal-node boundary, entered by hand.
*   preamp slew 0.6 V/us: Table 3 slew rate, G = 5 to 100.
*   diff-amp gbw 1.5 MHz / slew 0.4 V/us: Table 3 G = 1 rows.
*   diff-amp clamp [0.1, +VS-0.1] V: Table 3 OUTPUT, Output Swing,
*     RL = 10 kohm, TA = -40 to +125 degC.
*   Iq 325 uA: Table 3 quiescent current, 25 degC typ (400 uA max).
*   Ecm: Table 3 CMRR (DC to 60 Hz) is 106 dB min at G=10 and 120 dB min at
*     G=100; there is no G=39.9 row, so the CONSERVATIVE G=10 minimum
*     (106 dB = 5.012e-6 V/V) is injected as a common-mode-to-differential
*     error in series with +IN. Model offset voltage is ZERO: the datasheet
*     gives only maxima (VOSI 100 uV, VOSO 600 uV -> 115 uV RTI -> 16 mV at
*     the board output) and requirements Q7 calibrates initial offset out.
.subckt ad8226 inp inn rga rgb ref out vp vn
Rcm1 inp ncm 10meg
Rcm2 inn ncm 10meg
Ecm  nipe inp ncm 0 5.012e-6
XA1  nipe rga nd1 vp vn gopamp gbw=1.83meg aol=1e6 ro=100 vsathi=0.70 vsatlo=-0.35 islew=0.6
RF1  nd1 rga 24.7k
XA2  inn  rgb nd2 vp vn gopamp gbw=1.83meg aol=1e6 ro=100 vsathi=0.70 vsatlo=-0.35 islew=0.6
RF2  nd2 rgb 24.7k
R11  nd2 na3n 50k
R12  na3n out 50k
R21  nd1 na3p 50k
R22  na3p ref 50k
XA3  na3p na3n out vp vn gopamp gbw=1.5meg aol=1e6 ro=100 vsathi=0.10 vsatlo=0.10 islew=0.4
Iq   vp vn 325u
.ends
*
* The bb-amp signal chain exactly as architecture/blocks.md specifies it.
* pins: IN+ IN- OUT +3V3 GND.  params: r6 / cl / rl = the J2 load, ro2333 =
* the OPA2333 open-loop output resistance (see the b10 header for why it is
* swept). OPA2333: GBW 350 kHz typ, AOL 130 dB typ (106 dB min) -> 3.16e6,
* output swing 30 mV typ from either rail (RL = 10k, 25 degC; 50 mV max),
* slew 0.16 V/us, IQ 17 uA/channel typ - all TI SBOS351D p.3.
.subckt chain nip nin nout p3v3 gnd
+ params: r6=100 cl=1p rl=100k ro2333=1k
XU1  nip nin n_rga n_rgb n_vref n_amp1 p3v3 gnd ad8226
R1   n_rga n_rgb 1.27k
R2   p3v3 n_vrefset 121k
R3   n_vrefset gnd 10k
C4   n_vrefset gnd 100n
XU2A n_vrefset n_vref n_vref p3v3 gnd gopamp gbw=350k aol=3.16e6 ro={ro2333}
+    vsathi=0.030 vsatlo=0.030 iq=17u islew=0.16
XU2B n_amp1 n_fb n_u2bout p3v3 gnd gopamp gbw=350k aol=3.16e6 ro={ro2333}
+    vsathi=0.030 vsatlo=0.030 iq=17u islew=0.16
R4   n_u2bout n_fb 24.9k
R5   n_fb n_vref 10k
R6   n_u2bout nout {r6}
C1   p3v3 gnd 100n
C2   p3v3 gnd 10u
C3   p3v3 gnd 100n
CL   nout gnd {cl}
RL   nout gnd {rl}
.ends
*
* Sensor source: 350 ohm bridge (requirements Q3) split 175/175, common mode
* pinned at 1.65 V (Q1). V(nd) IS the differential input in volts.
*
* SWEEP PADDING (engine fact, measured on this host, ngspice 46): the FIRST
* point of a .dc sweep is solved from scratch and this 5-op-amp chain can
* land there on a junk operating point (gmin AND source stepping both report
* failure), while `at=` on the LAST point returns 'out of interval'. Every
* .dc and .ac range below is therefore padded so that no measured point is a
* sweep endpoint. Second and later points converge from the previous
* solution and are correct.

.temp 25
VS   p3v3 0 DC 3.3
Vcm  n_cm 0 DC 1.65
Vd   n_d  0 DC 0
Ep   n_sp n_cm n_d 0 0.5
En   n_sn n_cm n_d 0 -0.5
Rsp  n_sp n_ip 175
Rsn  n_sn n_in 175
X1   n_ip n_in n_out p3v3 0 chain r6=100 cl=1p rl=100k ro2333=1k
.dc Vcm 1.53 1.77 0.002
.meas dc vo_155 find v(n_out) at=1.55
.meas dc vo_165 find v(n_out) at=1.65
.meas dc vo_175 find v(n_out) at=1.75
.meas dc vref_155 find v(X1.n_vref) at=1.55
.meas dc vref_175 find v(X1.n_vref) at=1.75
.meas dc dvo_mv param='abs(vo_175-vo_155)*1000'
.meas dc dvref_uv param='abs(vref_175-vref_155)*1e6'
.end
